US04398939
N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-4-methyl-3-thiophenesulfonamide
A solution of 2 g of 4-methyl-3-thiophenesulfonyl isocyanate was added to a suspension of 1.5 g of 2-amino-4,6-dimethoxy-1,3,5-triazine in 20 ml of tetrahydrofuran and the resulting mixture stirred for 16 hours at ambient temperature. The precipitate thus obtained was filtered off and recrystallized to yield 1.5 g of the desired product, m.p. 154°-156°.

reactant | 4-methyl-3-thiophenesulfonyl isocyanate | 2 g | CC=1C(=CSC1)S(=O)(=O)N=C=O | C6H5NO3S2
reactant | 2-amino-4,6-dimethoxy-1,3,5-triazine | 1.5 g | NC1=NC(=NC(=N1)OC)OC | C5H8N4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-4-methyl-3-thiophenesulfonamide | 1.5 g | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=CSC=C1C | C11H13N5O5S2
